US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-(phenylethynyl)piperidine
A mixture of 1-(4-benzenesulfonyl-4-methylpentyl)-3-ethynylpiperidine (0.33 g, 1.0 mmol), iodobenzene (80 μL, 0.7 mmol), dichlorobis(triphenylphosphine)palladium(II) (35 mg, 0.05 mmol) and copper(I) iodide (6 mg, 0.03 mmol) in diisopropylamine (5 ml) was stirred at 70° C. for 2 hours. The reaction mixture was filtered through Celite, washing with dichloromethane (50 ml). The filtrate was concentrated in vacuo and the residue purified by flash column chromatography on silica gel, eluting with 2% methanol/dichloromethane, followed by an SCX cartridge and finally preparative thin layer chromatography, eluting with 7% methanol/dichloromethane, to give the title compound. The hydrochloride salt (63 mg, 14%) was obtained by treatment with ethereal hydrogen chloride and crystallisation from ethanol/diethyl ether.

reactant | 1-(4-benzenesulfonyl-4-methylpentyl)-3-ethynylpiperidine | 1.0 mmol, 0.33 g | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)C#C)(C)C | C19H27NO2S
reactant | iodobenzene | 0.7 mmol, 80 μL | IC1=CC=CC=C1 | C6H5I
solvent | diisopropylamine | 5 ml | C(C)(C)NC(C)C | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.03 mmol, 6 mg | [Cu]I
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-(phenylethynyl)piperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)C#CC1=CC=CC=C1)(C)C | C25H31NO2S
